***********************************************************
*
* 2PD601ARL
*
* Nexperia
*
* General purpose NPN Transistor
* IC   = 100 mA
* VCEO = 50 V 
* hFE  = 210 - 340 @ 10V/2mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
*
*
* Extraction date (week/year): 41/2008  
* Spicemodel does not include temperature dependency
*
**********************************************************
*#
* Please note: Diode D1 is dedicated to improve modeling in reverse
* mode of operation and does not reflect a physical device.
*
.SUBCKT 2PD601ARL 1 2 3
Q1 1 2 3 MAIN
D1 2 1 DIODE
*
.MODEL MAIN NPN 
+ IS = 1.45E-014 
+ NF = 0.9921 
+ ISE = 1.465E-015 
+ NE = 1.384 
+ BF = 260 
+ IKF = 0.06839 
+ VAF = 29.79 
+ NR = 0.9937 
+ ISC = 6.681E-015 
+ NC = 1.085 
+ BR = 14.64 
+ IKR = 0.06762 
+ VAR = 20 
+ RB = 55 
+ IRB = 0.0003 
+ RBM = 5.5 
+ RE = 0.5 
+ RC = 0.4493 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.407E-011 
+ VJE = 0.738 
+ MJE = 0.363 
+ TF = 5.8E-010 
+ XTF = 30 
+ VTF = 3 
+ ITF = 0.6 
+ PTF = 0 
+ CJC = 4.129E-012 
+ VJC = 0.3795 
+ MJC = 0.3304 
+ XCJC = 1 
+ TR = 4E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.MODEL DIODE D 
+ IS = 4.455E-017 
+ N = 0.8617 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1.198E+004 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
